US04010193
To 1.7 g. of sodium-3,4,5-trimethoxy-benzoate 1.45 g. of N-2-chloroethyl-cyclohexylamine hydrochloride and some sodium iodide crystals are added, whereafter 30 ml. of dimethyl formamide are introduced. After cooling toe precipitated crystals are filtered and the filtrate is evaporated. The residue is recrystallized from 96% of ethanol under clarifying with activated charcoal. Thus N-2-ethyl-cyclohexylamino-3,4,5-trimethoxy-benzoate-hydrochloride is obtained. M.p.: 208°-210° C.

reactant | sodium 3,4,5-trimethoxy-benzoate | 1.45 g | [Na].COC=1C=C(C(=O)[O-])C=C(C1OC)OC
reactant | N-2-chloroethyl-cyclohexylamine hydrochloride | Cl.ClCCNC1CCCCC1
reactant | sodium iodide | [I-].[Na+]
solvent | dimethyl formamide | CN(C=O)C | C3H7NO
product | N-2-ethyl-cyclohexylamino-3,4,5-trimethoxy-benzoate-hydrochloride | Cl.CCN(C1CCCCC1)C1=C(C(=O)O)C=C(C(=C1OC)OC)OC | InChI=1S/C18H27NO5.ClH/c1-5-19(12-9-7-6-8-10-12)15-13(18(20)21)11-14(22-2)16(23-3)17(15)24-4;/h11-12H,5-10H2,1-4H3,(H,20,21);1H
